US03978097
1-Bromo-6-isopropoxy-4-methyl-3-hexene
19 cc of 48 % hydrobromic acid are added dropwise, whilst stirring, at 0°C, over the course of 15 minutes, to 27.7 g of crude 2-cyclopropyl-4-isopropoxy-2-butanol. The mixture is stirred at 0°-5°C over the source of 30 minutes, and subsequently extracted with ether. The ether extract is washed with water, saturated sodium bicarbonate solution and saturated sodium chloride solution, dried over sodium sulphate and evaporated. The residue (20.2 g) is chromatographed with hexane/ethyl acetate (98:2) and (95:5) on silica gel. A chromatographically pure cis, trans isomeric mixture of 1-bromo-6-isopropoxy-4-methyl-3-hexene is obtained, nD20 = 1.4802.

reactant | hydrobromic acid | 19 cc | Br | BrH
reactant | 2-cyclopropyl-4-isopropoxy-2-butanol | 27.7 g | C1(CC1)C(C)(CCOC(C)C)O | C10H20O2
product | 1-Bromo-6-isopropoxy-4-methyl-3-hexene | BrCCC=C(CCOC(C)C)C | C10H19BrO
